US08067445B2
Step 1: 1-(2-Bromo-5-trifluoromethyl-benzyl)-3-(4-chloro-benzyl)-1-ethyl-urea
Prepared according to the procedure described in Example 95, Step 1, using the following starting materials: (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine and 4-chlorobenzyl isocyanate.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | 4-chlorobenzyl isocyanate | ClC1=CC=C(CN=C=O)C=C1 | C8H6ClNO
product | 1-(2-Bromo-5-trifluoromethyl-benzyl)-3-(4-chloro-benzyl)-1-ethyl-urea | BrC1=C(CN(C(=O)NCC2=CC=C(C=C2)Cl)CC)C=C(C=C1)C(F)(F)F | C18H17BrClF3N2O
